US04379861
(H) Tris-(morpholinopropyl)-amine
143 g (1 mol) of 3-morpholinopropionaldehyde in 143 g of dioxane are pumped into 72 g (0.5 mol) of aminopropylmorpholine and 30 g of Raney nickel at 120° C. and hydrogenated at 180 bar.

reactant | 3-morpholinopropionaldehyde | 1 mol, 143 g | O1CCN(CC1)CCC=O | C7H13NO2
reactant | aminopropylmorpholine | 0.5 mol, 72 g | NCCCN1CCOCC1 | C7H16N2O
solvent | dioxane | 143 g | O1CCOCC1 | C4H8O2
catalyst | Raney nickel | 30 g | [Ni] | Ni
product | Tris-(morpholinopropyl)-amine | O1CCN(CC1)CCCN(CCCN1CCOCC1)CCCN1CCOCC1 | C21H42N4O3
